US07595405B2
To a stirred solution of 5-amino-4′-methyl-biphenyl-3-carboxylic acid methyl ester (3.672 mmol, 884.9 mg) and pyridine (36.7 mmol, 3 mL) in 8 mL of dry CH2Cl2 was added acetic anhydride (7.3 mmol) at room temperature. The mixture was stirred at room temperature for 1 hour, then diluted with ethyl acetate (150 mL). The organic layer was washed with saturated aqueous CuSO4 solution, brine, dried over anhydrous Na2SO4, filtered, and concentrated in vacuo to give 5-acetylamino-4′-methyl-biphenyl-3-carboxylic acid methyl ester (quant. Yield), which was used directly in the next step.

reactant | 5-amino-4′-methyl-biphenyl-3-carboxylic acid methyl ester | 3.672 mmol, 884.9 mg | COC(=O)C=1C=C(C=C(C1)N)C1=CC=C(C=C1)C | C15H15NO2
reactant | pyridine | 36.7 mmol, 3 mL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 7.3 mmol | C(C)(=O)OC(C)=O | C4H6O3
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 5-acetylamino-4′-methyl-biphenyl-3-carboxylic acid methyl ester | quant. Yield | COC(=O)C=1C=C(C=C(C1)NC(C)=O)C1=CC=C(C=C1)C | C17H17NO3
